US06200981B1
i) 5-Bromomethyl-2-methoxybenzoic acid, methyl ester
A mixture of 2-methoxy-5-methylbenzoic acid methyl ester (J.Chem.Soc.Perkin Trans.1, 1994, 1125) (1.47 g) and N-bromosuccinimide (1.45 g) in benzene (15 ml) was irradiated under a 500 W halogen lamp for 3 hours. The solvent was evaporated and the residue triturated with diethyl ether. The succinimide was filtered off and the filtrate evaporated.

reactant | 2-methoxy-5-methylbenzoic acid methyl ester | 1.47 g | COC(C1=C(C=CC(=C1)C)OC)=O | C10H12O3
reactant | N-bromosuccinimide | 1.45 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 5-Bromomethyl-2-methoxybenzoic acid, methyl ester | BrCC=1C=CC(=C(C(=O)OC)C1)OC | C10H11BrO3
